US05639779
3-(N-Benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(2-ethylsulphonylethenyl)-1H-indole
A stirred mixture of 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-bromo-1H-indole (Preparation 2; 0.43 g, 1.04 mmol), ethyl vinyl sulphone (0.17 g, 1.4 mmol), tri-o-tolylphosphine (91 mg), palladium(II) acetate (16 mg), triethylamine (0.31 ml) and acetonitrile (4 ml), under nitrogen, was heated under reflux for 18 hours, allowed to cool, then evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a dichloromethane to dichloromethane:ethanol (99:1) gradient, to afford the title compound as a foam (0.34 g). Rf 0.80 (SS 2). [α]D25 -50° (c=0.1, CH3OH). Found: C,65.16; H,6.17; N,5.97. C25H28N2O4S; 0.125 CH2Cl2 requires C,65.15; H,6.15; N,6.05%. δ(CDCl3)--mixture of rotamers: 1.42(3H,t), 1.70-1.88(4H,m), 2.78(1H,m), 3.05-3.48(5H,m), 4.20(1H,m), 5.16-5.28(2H, br q), 5.30(0.25H,s,CH2Cl2), 6.64-7.82(1H,m), 6.96 and 7.05(1H, 2×s), 7.30-7.45(7H,m), 7.55-7.80 and 8.00(2H, m and s), 8.32(1H,br s).

reactant | 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-bromo-1H-indole | 1.04 mmol, 0.43 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)Br | C21H21BrN2O2
reactant | ethyl vinyl sulphone | 1.4 mmol, 0.17 g | C(=C)S(=O)(=O)CC | C4H8O2S
reactant | tri-o-tolylphosphine | 91 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 3-(N-Benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(2-ethylsulphonylethenyl)-1H-indole | 0.34 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C=CS(=O)(=O)CC | C25H28N2O4S
